US04207234
1-(α-Benzyloxycarbonylbenzyl)-3-phthalimido-2-azetidinone (1.32 g) was dissolved in ethyl acetate (30 ml), and to the solution, there was added 10% palladium on carbon (500 mg), and the mixture was subjected to catalytic reduction in a stream of hydrogen gas at ordinary temperature and ordinary atmospheric pressure. After a calculated volume of the hydrogen gas was absorbed into the reaction mixture in the course of 3 hours. The reaction mixture was adjusted to about pH 8 with 2% aqueous sodium bicarbonate. The catalyst was removed by filtration from the reaction mixture and the aqueous layer was separated from the resultant filtrate. The aqueous solution was adjusted to pH 2 with 1 N hydrochloric acid and extracted with ethyl acetate. The extract was washed with a saturated aqueous sodium chloride and then dried over magnesium sulfate. The solvent was removed by distillation from solution under reduced pressure to give an crystalline residue, which was washed with diethyl ether to give 1-(α-carboxybenzyl)-3-phthalimido-2-azetidinone (0.85 g), mp 182° to 183° C.

reactant | 1-(α-Benzyloxycarbonylbenzyl)-3-phthalimido-2-azetidinone | 1.32 g | C(C1=CC=CC=C1)OC(=O)C(C1=CC=CC=C1)N1C(C(C1)N1C(C=2C(C1=O)=CC=CC2)=O)=O | C26H20N2O5
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium on carbon | 500 mg | [Pd] | Pd
product | 1-(α-carboxybenzyl)-3-phthalimido-2-azetidinone | 0.85 g | C(=O)(O)C(C1=CC=CC=C1)N1C(C(C1)N1C(C=2C(C1=O)=CC=CC2)=O)=O | C19H14N2O5
